US09371333B2
2-Amino-4-(3-bromo-4,5-dimethoxy-phenyl)-4H-benzo[h]chromene-3-carbonitrile (1)
1-Naphthol (170 mg, 1.2 mmol), 3-bromo-4,5-dimethoxybenzaldehyde (245 mg, 1 mmol) and malononitrile (66 mg, 1 mmol) were taken in 7 ml ethanol at room temperature, charged with piperidine (50 μl) and then stirred at 80° C. under LC-MS (Liquid chromatography-mass spectrometry) control till the reaction was complete. The reaction mixture was cooled down to room temperature and diluted with water to about 15 ml drop wise addition. The mixture was stirred at room temperature for about 1 h. Thus formed precipitates were collected by filtration, washed well with 60% aqueous ethanol and dried under high vacuum to get 394 mg (0.90 mmol, 90%) of the pure solids of the title compound.

reactant | 1-Naphthol | 1.2 mmol, 170 mg | C1(=CC=CC2=CC=CC=C12)O | C10H8O
reactant | 3-bromo-4,5-dimethoxybenzaldehyde | 1 mmol, 245 mg | BrC=1C=C(C=O)C=C(C1OC)OC | C9H9BrO3
reactant | malononitrile | 1 mmol, 66 mg | C(CC#N)#N | C3H2N2
reactant | piperidine | 50 μl | N1CCCCC1 | C5H11N
solvent | ethanol | 7 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 2-Amino-4-(3-bromo-4,5-dimethoxy-phenyl)-4H-benzo[h]chromene-3-carbonitrile | NC=1OC2=C3C(=CC=C2C(C1C#N)C1=CC(=C(C(=C1)OC)OC)Br)C=CC=C3 | C22H17BrN2O3
